US04954489
(c) Methyl 2-acetamidothiazol-4-acetate
Methyl-4-chloroacetoacetate (11.54ml), N-acetylthiourea (11.8g) and 4A molecular sieves (10g) were stirred in dry, distilled dimethylformamide (DMF) (50ml) at 50° C., for 23h. After this time the reaction appeared complete by t.1.c. The mixture was cooled and filtered through a dicalite pad. The residue was washed with DMF and tetrahydrofuran and the resultant filtrates diluted with water. This solution was washed five times with ethyl acetate; the organic washes were combined, dried, filtered and evaporated to give a yellow oil. This was triturated under water whereupon a white precipitate formed. This was cooled to complete and the resultant solid filtered off, washed with cold water and dried to give the desired product (14.63g) as a white crystalline solid, m.p. 122°-123° C. (from ethyl acetate-hexane); υ max (nujol) 3175 (w), 1740, 1655, 1560 and 1543cm-1 ; δ[(CD3)2SO, 60MHz]2.1 (3H, s). 3.6 (3H. s). 3.7 (2 H. s). and 6.9 (1H. s). (Found: C, 44.9; H, 4.7; N, 13.4; S, 15.3. C8H10N2O3S requires: C, 44.9; H, 4.7; N, 13.1; S, 15.0%). The mother liquors were concentrated to low volume and cooled to yield a second crop of the desired material (2.54g) which was slightly less pure by NMR.

reactant | Methyl-4-chloroacetoacetate | 11.54ml | COC(CC(=O)CCl)=O | C5H7ClO3
reactant | N-acetylthiourea | 11.8g | C(C)(=O)NC(=S)N | C3H6N2OS
product | Methyl 2-acetamidothiazol-4-acetate | 14.63g | C(C)(=O)NC=1SC=C(N1)CC(=O)OC | C8H10N2O3S
